*
*
* Cathode---------.
* Grid----------. |
* Anode-------. | |
*             | | |
.SUBCKT ECC99 1 2 3
E1 7 0 VALUE={V(1,3)/500*LOG(1+EXP(500*(1/22+V(2,3)/SQRT(300+V(1,3)*V(1,3)))))}
G1 1 3 VALUE={(PWR(V(7),1.3)+PWRS(V(7),1.3))/362}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 5.8p
C2 2 1 5.1p
C3 1 3 0.91p
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 2000 ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=0 TT=1N)
.ENDS
